data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2868,3187,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N+:30]([CH3:31])=[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([CH3:13])([CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([CH3:13])([CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:30]([CH3:31])[C:32]2([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,water,298.15,43.38820390757933,-10.453238030733123
4059,4650,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([C:12]#[N:13])[C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14](=[O:15])[O:16][CH3:17])[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:18](=[O:19])[O:20][CH3:21],water,298.15,7.667217727596848,-54.845876967299496
3780,4330,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[NH+:17]=[C:18]([CH3:19])[CH3:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]([CH3:19])([CH3:20])[NH:17][C:14]2([C:12]([CH3:11])=[O:13])[C:15]#[N:16],water,298.15,30.65492784940716,12.955959327588918
2135,2369,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22]#[N:23])([C:24]([CH3:25])=[O:26])[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,13.513242397386708,-29.567345490253143
4112,4707,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])=[N:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:20]([CH3:21])=[O:22],water,298.15,13.952677696357132,-39.87385621544343
3856,4412,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[C:18](=[O:19])[O:20]2,water,298.15,19.218586853530525,-3.5124944523920183
2614,2896,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][O:24][C:25](=[O:26])[N:27]=[N+:28]([CH3:29])[N-:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:28]([CH3:29])[N:27]2[C:25]([O:24][CH3:23])=[O:26],water,298.15,30.12216046711595,-21.89094857281266
5059,5747,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]([CH3:17])=[O:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,39.14845239055872,-0.8491404280544549
2645,2932,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11](=[O:12])[O:13][CH3:14])([C:15](=[O:16])[O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C:27]([CH3:28])=[NH+:29][N-:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11](=[O:12])[O:13][CH3:14])([C:15](=[O:16])[O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[NH:29][C:27]2([C:25]([NH:24][CH3:23])=[O:26])[CH3:28],water,298.15,20.85242571201352,-37.0264369398986
1664,1836,[CH3:16][CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[CH:17]([CH3:16])[NH:18][C:19]2([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,10.33364663754542,-21.167153834849824
